US04874775
N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)ethanesulfonamide
A 4.4 g. portion of 3-(2,4-difluorophenylaminomethyl)pyridine chloromethane, and 4.1 g. of potassium carbonate and 3.9 g. of ethanesulfonyl chloride were added. The mixture was stirred under reflux for several days. It was then diluted with 20 ml. of aqueous sodium bicarbonate and 20 ml. of dichloromethane, and the organic phase was dried and evaporated to an oil. The oil was dissolved in dichloromethane and chromatographed over silica gel, eluting with dichloromethane, to obtain 1.2 g. of the desired product, after triturating with diethyl ether and petroleum ether. M.P. 91°-92°.

reactant | 3-(2,4-difluorophenylaminomethyl)pyridine chloromethane | ClC.FC1=C(C=CC(=C1)F)NCC=1C=NC=CC1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethanesulfonyl chloride | C(C)S(=O)(=O)Cl | C2H5ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | N-(2,4-difluorophenyl)-N-(pyridin-3-ylmethyl)ethanesulfonamide | FC1=C(C=CC(=C1)F)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C14H14F2N2O2S
